US06514964B1
Step C: N-[6-(3,4-dihydroxybutyl)(2-pyridyl)](tert-butoxy)carboxamide
To a stirring solution of 4-methylmorpholine N-oxide(2.1 eq) and osmium tetraoxide (2.5 eq) in tetrahydrofuran/water (5 eq/1 eq) was added (tert-butoxy)-N-(6-but-3-enyl(2-pyridyl))carboxamide (1.0 eq) at 25° C. and stirred for 18 hr. The reaction was quenched with solution of sodium bisulfate (0.5M) and sodium sulfite (1M) and stirred for 30 mins. The reaction was poured into a brine and extracted with ethyl acetate. The organic layer was dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (50% EtOAc/Hexane). EI-MS m/z 283(M+H)+

reactant | 4-methylmorpholine N-oxide | 2.1 eq | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrahydrofuran water | 5 eq | O1CCCC1.O
reactant | (tert-butoxy)-N-(6-but-3-enyl(2-pyridyl))carboxamide | 1.0 eq | C(C)(C)(C)OC(=O)NC1=NC(=CC=C1)CCC=C | C14H20N2O2
catalyst | osmium tetraoxide | 2.5 eq | [Os](=O)(=O)(=O)=O
product | N-[6-(3,4-dihydroxybutyl)(2-pyridyl)](tert-butoxy)carboxamide | OC(CCC1=CC=CC(=N1)NC(=O)OC(C)(C)C)CO | C14H22N2O4
